US07727988B2
3-[5-(4-Methyl-pyridin-3-yl)-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl]-propionaldehyde (Prep113)
1-(3,3-Dimethoxy-propyl)-5-(4-methyl-pyridin-3-yl)-1H-pyrimidine-2,4-dione (Pre112, 100 mg, 0.32 mmol) was dissolved in THF (5 ml) and 1N HClaq (327 μl) was added. The solution was then stirred at 40° C. for 1.5 hours. TEA (45 μl) was added and the solvent was carefully removed in vacuum at room temperature. Residue was freeze dried to give the title compound that was used in the next step without further purification (quantitative yield).

reactant | 1-(3,3-Dimethoxy-propyl)-5-(4-methyl-pyridin-3-yl)-1H-pyrimidine-2,4-dione | 0.32 mmol, 100 mg | COC(CCN1C(NC(C(=C1)C=1C=NC=CC1C)=O)=O)OC | C15H19N3O4
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 3-[5-(4-Methyl-pyridin-3-yl)-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl]-propionaldehyde | quantitative yield | CC1=C(C=NC=C1)C=1C(NC(N(C1)CCC=O)=O)=O | C13H13N3O3
